US04331670
Preparation of N-(3,5-dichloro-4,6-dimethyl-2-pyridyl)-2,4-dinitro-6-trifluoromethylaniline
In 20 ml. of dimethylformamide, 1.9 g. of 2-amino-3,5-dichloro-4,6-dimethylpyridine was dissolved and 0.7 g. of powdery potassium hydroxide was gradually added with stirring and a solution of 2.7 g. of 2,4-dinitro-6-trifluoromethylchlorobenzene in 10 ml. of dimethylformamide was added dropwise at room temperature to react them for about 10 hours. The reaction mixture was treated as the process of Preparation No. 7 to obtain 1.6 g. of the object compound having the melting point of 131° to 133° C.

reactant | 2-amino-3,5-dichloro-4,6-dimethylpyridine | NC1=NC(=C(C(=C1Cl)C)Cl)C | C7H8Cl2N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,4-dinitro-6-trifluoromethylchlorobenzene | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)Cl | C7H2ClF3N2O4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(3,5-dichloro-4,6-dimethyl-2-pyridyl)-2,4-dinitro-6-trifluoromethylaniline | ClC=1C(=NC(=C(C1C)Cl)C)NC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C14H9Cl2F3N4O4
